US04155930
A mixture of 20.0 g of 8-(5-nitro-o-toluenesulfonamido)-1,3,6-naphthalenetrisulfonic acid, trisodium salt, 90.0 ml of water and 20.0 g of 10% palladium on carbon catalyst is hydrogenated as described in Example 1. The reaction mixture is filtered through diatomaceous earth and the filtrate is evaporated. The residue is dissolved in a minimum amount of water, then is added dropwise to 800 ml of stirred absolute ethanol. The mixture is stirred for 2 hours and allowed to stand for 48 hours. A light yellow solid is collected, washed with ethanol and ether, then is dried to yield 15.0 g of 8-(5-amino-o-toluenesulfonamido)-1,3,6-naphthalenetrisulfonic acid, trisodium salt.

reactant | 8-(5-nitro-o-toluenesulfonamido)-1,3,6-naphthalenetrisulfonic acid | 20.0 g | [N+](=O)([O-])C1=CC=C(C(=C1)C)S(=O)(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C17H14N2O13S4
reactant | trisodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
catalyst | palladium on carbon | 20.0 g | [Pd] | Pd
solvent | water | 90.0 ml | O | H2O
product | 8-(5-amino-o-toluenesulfonamido)-1,3,6-naphthalenetrisulfonic acid | 15.0 g | NC1=CC=C(C(=C1)C)S(=O)(=O)NC=1C=C(C=C2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C17H16N2O11S4
